US04065464
A solution of 9.3 g. (0.05 mole) of 1-chloro-2-hydroxy-3-phenoxypropane in 100 ml. of tetrahydrofuran is mixed with a solution of 8.1 g. (0.05 mole) of trichloroacetamidine, also in tetrahydrofuran. The mixture is heated at reflux for 3 hours, and concentrated to an oil, which is taken up in benzene and washed well with water. The benzene layer is dried over magnesium sulfate, filtered, and treated with excess ethanolic hydrogen chloride to provide the crude hydroxy amidine hydrochloride. This is dissolved in glacial acetic acid and converted to the acetate by treatment with 3.5 g. (0.04 mole) of acetyl chloride at room temperature for 3 days. The reaction mixture is evaporated, treated with benzene, evaporated to dryness, and the process repeated once more with benzene, twice with toluene and twice with petroleum ether. There is afforded N-(2-acetoxy-3-phenoxypropyl) trichloroacetamidine hydrochloride, m.p. 70° to 77° C.

reactant | 1-chloro-2-hydroxy-3-phenoxypropane | 0.05 mole | ClCC(COC1=CC=CC=C1)O | C9H11ClO2
reactant | trichloroacetamidine | 0.05 mole | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | acetate | C(C)(=O)[O-]
reactant | acetyl chloride | 0.04 mole | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2-acetoxy-3-phenoxypropyl) trichloroacetamidine hydrochloride | Cl.C(C)(=O)OC(CNC(C(Cl)(Cl)Cl)=N)COC1=CC=CC=C1 | InChI=1S/C13H15Cl3N2O3.ClH/c1-9(19)21-11(7-18-12(17)13(14,15)16)8-20-10-5-3-2-4-6-10;/h2-6,11H,7-8H2,1H3,(H2,17,18);1H
